US06826033B2
To a solution of ethyl 3-[[[[4-[(2S)-2-[N-(tert-butoxycarbonyl)-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-[(trimethylsilyl)oxy]propyl]phenyl]amino]carbonyl]amino]-benzoate (204 mg) in 1,2-dichloroethane (2.0 ml) was added trifluroacetic acid (2.0 ml) and the solution was stirred at room temperature for 1 hour. The solvent was removed by evaporation and the residue was dissolved in ethyl acetate (10 ml). The solution was washed with aqueous saturated sodium bicarbonate solution (5 ml×1) and brine (10 ml×1) successively, dried over magnesium sulfate, and evaporated to give ethyl 3-[[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]amino]carbonyl]amino]-benzoate (148 mg) as a white solid.

reactant | ethyl 3-[[[[4-[(2S)-2-[N-(tert-butoxycarbonyl)-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-[(trimethylsilyl)oxy]propyl]phenyl]amino]carbonyl]amino]-benzoate | 204 mg | C(C)(C)(C)OC(=O)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)NC=1C=C(C(=O)OCC)C=CC1)CO[Si](C)(C)C | C36H49N3O8Si
reactant | trifluroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichloroethane | 2.0 ml | ClCCCl | C2H4Cl2
product | ethyl 3-[[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]amino]carbonyl]amino]-benzoate | 148 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)NC=1C=C(C(=O)OCC)C=CC1)NC[C@@H](COC1=CC=CC=C1)O | C28H33N3O6
